US05382585
5.0 g (33 mmol) of 7-hydroxy-[1,2,5]oxadiazolo[3,4-d]pyrimidine-1-oxide and 0.3 g (38 mmol) of lithium hydride are heated at 50° C. for 30 min in 70 ml of THF. After addition of a solution of 5.9 g (46 mmol) of 3-picolyl chloride in 30 ml of DMF, the mixture is heated at 60° C. for 2 h. The solvents are stripped off completely in a rotary evaporator, and the residue is digested several times with THF. The product is precipitated from the combined THF extracts by addition of ethereal hydrochloric acid and recrystallised from methanol. 1 g of 6-(3-picolyl)-[1,2,5]oxadiazolo[3,4-d]pyrimidine-7(6H)-one-1-oxide hydrochloride is obtained.

reactant | 7-hydroxy-[1,2,5]oxadiazolo[3,4-d]pyrimidine-1-oxide | 33 mmol, 5.0 g | OC=1C=2C(N=CN1)=NO[N+]2[O-] | C4H2N4O3
reactant | lithium hydride | 38 mmol, 0.3 g | [H-].[Li+]
reactant | 3-picolyl chloride | 46 mmol, 5.9 g | N1=CC(=CC=C1)CCl | C6H6ClN
solvent | THF | 70 ml | C1CCOC1 | C4H8O
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 6-(3-picolyl)-[1,2,5]oxadiazolo[3,4-d]pyrimidine-7(6H)-one-1-oxide hydrochloride | 1 g | Cl.N1=CC(=CC=C1)CN1C=NC=2C(C1=O)=[N+](ON2)[O-] | InChI=1S/C10H7N5O3.ClH/c16-10-8-9(13-18-15(8)17)12-6-14(10)5-7-2-1-3-11-4-7;/h1-4,6H,5H2;1H
